US06833456B2
2-{[(3S)-3-Methoxypyrrolidin-1-yl]carbonyl}-7-[(2-methyl-1-propionyl-1H-indol-5-yl)oxy]thieno[3,2-b]pyridine
NaH (0.016 g, 0.4 mmol) was added to a solution of 2-{[(3S)-3-methoxypyrrolidin-1-yl]carbonyl}-7-[(2-methyl-1H-indol-5-yl)oxy]thieno[3,2-b]pyridine (0.108 g, 0.26 mmol) in 2 mL THF. The reaction mixture was stirred at room temperature for 10 min and propanoic anhydride (0.052 mL, 0.4 mmol) was added. The reaction mixture was stirred at room temperature for 2 h and more NaH (0.016 g, 0.4 mmol) and propanoic anhydride (0.052 mL, 0.4 mmol) were added. After 3 h, the reaction was quenched with H2O (10 mL) and extracted with CH2Cl2 (2×10 mL). The organic layer was dried and concentrated. The residue was purified by flash column chromatography (0-2% CH3OH in CH2Cl2) to give a white solid (0.115 g, 95%). 1H NMR (CD3OD) δ 8.39 (1H, d, J=5.5 Hz), 8.14 (1H, d, J=9.0 Hz), 7.81 (1H, d, J=5.4 Hz), 7.23 (1H, d, J=2.3 Hz), 7.00 (1H, dd, J=2.3, 9.0 Hz), 6.59 (1H, d, J=5.5 Hz), 6.37 (1H, s), 4.04-4.00 (1H, m), 3.95-3.80 (2H, m), 3.73-3.57 (2H, m), 3.27 (1H, d, J=14.3 Hz), 3.00 (2H, q, J=7.2 Hz), 2.58 (3H, s), 2.20-1.92 (2H, m), 1.21 (3H, t, J=7.2 Hz). Anal. Calc'd for C24H23N3O4S: C, 64.78; H, 5.44; N, 9.06; Found: C, 64.54; H, 5.67; N, 8.92; ESIMS (MH+): 464.15.

reactant | NaH | 0.4 mmol, 0.016 g | [H-].[Na+]
reactant | 2-{[(3S)-3-methoxypyrrolidin-1-yl]carbonyl}-7-[(2-methyl-1H-indol-5-yl)oxy]thieno[3,2-b]pyridine | 0.26 mmol, 0.108 g | CO[C@@H]1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(NC2=CC1)C | C22H21N3O3S
reactant | propanoic anhydride | 0.4 mmol, 0.052 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | NaH | 0.4 mmol, 0.016 g | [H-].[Na+]
reactant | propanoic anhydride | 0.4 mmol, 0.052 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-{[(3S)-3-Methoxypyrrolidin-1-yl]carbonyl}-7-[(2-methyl-1-propionyl-1H-indol-5-yl)oxy]thieno[3,2-b]pyridine | 0.115 g, 95% | CO[C@@H]1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(N(C2=CC1)C(CC)=O)C | C25H25N3O4S
